US07153968B2
Step 2: (5-Bromo-pyridin-2-yl)-methanol
To a solution of 5-bromo-pyridine-2-carbaldehyde (1.0 eq.) in THF:EtOH (1:1; 0.2M) at −78° C. was added NaBH4 (4.0 eq.). The mixture was stirred for 2 h at −78° C., quenched with excess AcOH, poured in aqueous HCl (1M), stirred for 15 min, neutralized to pH=7 with NaOH (1M) and extracted with EtOAc (2×). The combined organic extracts were washed with brine, dried over Na2SO4, filtered and concentrated to afford the title compound as an oil.

reactant | 5-bromo-pyridine-2-carbaldehyde | 1.0 eq. | BrC=1C=CC(=NC1)C=O | C6H4BrNO
reactant | NaBH4 | 4.0 eq. | [BH4-].[Na+]
solvent | THF EtOH | 0.2M | C1CCOC1.CCO
product | (5-Bromo-pyridin-2-yl)-methanol | BrC=1C=CC(=NC1)CO | C6H6BrNO
